US06329550B1
Combine (R)-2-bromo-3-phenylpropionic acid (3.44 g, 15 mmol), diethyl aminomalonate hydrochloride (4.23 g, 20 mmol), and N-methylmorpholine (5.5 mL, 50 mmol) in dichloromethane (50 mL). Add 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloric acid salt (3.83 g, 20 mmol) and 1-hydroxybenztriazole hydrate (2.70 g, 20 mmol). Add tetrahydrofuran (10 mL). After 20 hours, concentrate in vacuo and partition the concentrated reaction mixture between an aqueous 5% sulfuric acid solution and methyl t-butyl ether. Separate the layers and extract the organic layer with a saturated aqueous sodium bicarbonate solution and then brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 1/4 ethyl acetate/hexane, 1/3 ethyl acetate/hexane, and then 2.5/1 ethyl acetate/hexane to give diethyl 2-((R)-2-bromo-3-phenylpropionylamino)malonate.

reactant | (R)-2-bromo-3-phenylpropionic acid | 15 mmol, 3.44 g | Br[C@@H](C(=O)O)CC1=CC=CC=C1 | C9H9BrO2
reactant | diethyl aminomalonate hydrochloride | 20 mmol, 4.23 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | N-methylmorpholine | 50 mmol, 5.5 mL | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloric acid salt | 20 mmol, 3.83 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenztriazole hydrate | 20 mmol, 2.70 g | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | diethyl 2-((R)-2-bromo-3-phenylpropionylamino)malonate | Br[C@@H](C(=O)NC(C(=O)OCC)C(=O)OCC)CC1=CC=CC=C1 | C16H20BrNO5
